US05332736
(2,4-Dichlorophenyl)(1,3,5-trimethyl-1H-pyrrol-2-yl)-methanone (5)
A solution of 62.69 g (0.18 mole) 5-(2,4-dichlorobenzoyl)-1,4-dimethyl-1H-pyrrole-2-acetic acid (4)in 550 mL of propionic acid was heated under reflux overnight then poured into water. The solution was extracted three times with diethyl ether. The ether solution was washed successively with NaHCO3, water and brine, and dried (MgSO4). Evaporation of the solvent in vacuo gave a tan solid which was recrystallized from methylcyclohexane: mp 96°-98° C.; mass spectrum (Cl--CH4) m/z=282 (M+1); NMR 300 MHz (CDCl3) d 7.5 (s, 1H); 7.35-7.2 (m, 2H); 5.8 (s, 1H ); 3.9 (s, 3H); 2.25 (s, 3H); 1.6 (s, 3H). Anal Calcd for C14H13Cl2NO: C, 59.59; H, 4.64; N, 4.96. Found: C, 59.79; H, 4.39; N, 4.92.

reactant | 5-(2,4-dichlorobenzoyl)-1,4-dimethyl-1H-pyrrole-2-acetic acid | 0.18 mole, 550 mL, 62.69 g | ClC1=C(C(=O)C2=C(C=C(N2C)CC(=O)O)C)C=CC(=C1)Cl | C15H13Cl2NO3
reactant | propionic acid | C(CC)(=O)O | C3H6O2
solvent | water | O | H2O
product | (2,4-Dichlorophenyl)(1,3,5-trimethyl-1H-pyrrol-2-yl)-methanone | ClC1=C(C=CC(=C1)Cl)C(=O)C=1N(C(=CC1C)C)C | C14H13Cl2NO
